US06025366
2-[3-(2-Trimethylsilylethoxymethyl)-3H-imidazo[4,5-b]pyridin-6-yl]-ethanol
6-Oxiranyl-3-(2-trimethylsilylethoxymethyl)-3H-imidazo-[4,5-b]pyridine (918 mg, 3.15 mmol) was combined with 10% Pd/C (400 mg) and ammonium formate (993 mg, 15.75 mmol) and the mixture was suspended in methanol (25 mL). The reaction mixture was heated to 70° C. for 2.5 h. After cooling to ambient temperature, the mixture was filtered through celite®, eluted with methanol, concentrated in vacuo. The crude residue was purified by flash chromatography on silica gel using 75% ethyl acetate/hexanes then 95.5 CH2Cl2 /MeOH as the eluents, which provided 480 mg of the title compound (43% yield for 3 steps).

reactant | 6-Oxiranyl-3-(2-trimethylsilylethoxymethyl)-3H-imidazo-[4,5-b]pyridine | 3.15 mmol, 918 mg | O1C(C1)C=1C=C2C(=NC1)N(C=N2)COCC[Si](C)(C)C | C14H21N3O2Si
reactant | ammonium formate | 15.75 mmol, 993 mg | C(=O)[O-].[NH4+]
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 2-[3-(2-Trimethylsilylethoxymethyl)-3H-imidazo[4,5-b]pyridin-6-yl]-ethanol | 480 mg, 43% yield | C[Si](CCOCN1C=NC=2C1=NC=C(C2)CCO)(C)C | C14H23N3O2Si
